### PR TITLE
feat(ErdosProblems): 740

### LINKED ISSUE #923: Erdős Problem 740
### What is the conjecture

https://www.erdosproblems.com/740

  Let $\mathfrak{m}$ be an infinite cardinal and $G$ be a graph with chromatic number $\mathfrak{m}$. Let $r\geq 1$. Must $G$ contain a subgraph of chromatic number $\mathfrak{m}$ which does not contain any odd cycle of length $\leq r$?

Status:  open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by Robertboy18**
Pushed #339  and also related problem https://www.erdosproblems.com/740 which is basically the infinite version in some sense to 108!

Closes #923

### CODE REVIEW

File: FormalConjectures/ErdosProblems/108.lean [hunk 1]
```diff
@@ -0,0 +1,36 @@
...
+
+For every r≥4 and k≥2, does there exist finite f(k,r) such that every graph of chromatic number ≥f(k,r) contains a subgraph of girth ≥r and chromatic number ≥k?
+-/
+
+variable {V : Type*} [Fintype V]
+
+@[category research open, AMS 05]
+theorem erdos_108 :
+    (∀ (r k : ℕ), r ≥ 4 → k ≥ 2 →
+      ∃ (f : ℕ → ℕ → ℕ), ∀ (G : SimpleGraph V) [DecidableRel G.Adj],
```
Comment (hkalbasi) [inline FormalConjectures/ErdosProblems/108.lean]: Here, f is already conditioned on r and k, so we can just say that `∃ f : ℕ, ∀ (G : SimpleGraph V) G.chromaticNumber ≥ f`. Alternatively, we can move existential qualifier before r and k, that is: `∃ f : ℕ → ℕ → ℕ, ∀ r k : ℕ, r ≥ 4 → k ≥ 2`.

Comment (Robertboy18) [reply FormalConjectures/ErdosProblems/108.lean]: I see thank you! I will update this then to your suggestion.

File: FormalConjectures/ErdosProblems/108.lean [hunk 2]
```diff
@@ -0,0 +1,36 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Problem 108: Erdős-Hajnal conjecture on subgraphs with high girth and chromatic number
+
+*Reference:* [Erdős Problems](https://erdosproblems.com/108)
+
+For every r≥4 and k≥2, does there exist finite f(k,r) such that every graph of chromatic number ≥f(k,r) contains a subgraph of girth ≥r and chromatic number ≥k?
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/108.lean]: The convention we're following is to have the statement of the theorem as a docstring above the result rather than in the module docstring.

File: FormalConjectures/ErdosProblems/108.lean [hunk 3]
```diff
@@ -0,0 +1,36 @@
...
+-/
+
+variable {V : Type*} [Fintype V]
+
+@[category research open, AMS 05]
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/108.lean]:
```suggestion
@[category research open, AMS 5]
```

File: FormalConjectures/ErdosProblems/740.lean [hunk 4]
```diff
@@ -0,0 +1,39 @@
...
+Does every graph with infinite chromatic number contain a subgraph of infinite chromatic number that avoids odd cycles of length ≤r?
+-/
+
+variable {V : Type*}
+
+/-- A graph avoids odd cycles of length ≤ r if it contains no odd cycles of length at most r -/
+def avoidsOddCyclesOfLength (G : SimpleGraph V) (r : ℕ) : Prop :=
+  ∀ (n : ℕ) (v : V) (c : G.Walk v v), c.length = n → n ≤ r → Odd n → ¬c.IsCycle
+
+@[category research open, AMS 05]
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/740.lean]:
```suggestion
@[category research open, AMS 5]
```

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the contribution! A few minor nitpicks

**Comment by mo271** [comment]
@Robertboy18 would you be able to sign the CLA or do you need help, for instance changing the email address used in the pull request if another one is already associated with signing the CLA?
View this [failed invocation](https://github.com/google-deepmind/formal-conjectures/pull/454/checks?check_run_id=46794468601) of the CLA check for more information.

**Comment by mo271** [comment]
@Robertboy18 by now 108 has been added to the repo already. 740 is still missing, if you are still up for it (needs CLA signing...)

File: FormalConjectures/ErdosProblems/108.lean [hunk 5]
```diff
@@ -43,4 +43,4 @@ theorem erdos_108 :
 
 -- TODO: Proof for the case r=4 and statement for the infinite case
 
-end Erdos108
+end Erdos108
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/108.lean]:
```suggestion
end Erdos108

```

File: FormalConjectures/ErdosProblems/740.lean [hunk 6]
```diff
@@ -0,0 +1,39 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Problem 740: Infinitary version of chromatic number and odd cycles
+
+*Reference:* [Erdős Problems](https://erdosproblems.com/740)
+
+Does every graph with infinite chromatic number contain a subgraph of infinite chromatic number that avoids odd cycles of length ≤r?
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/740.lean]: please move the docstring to the theorem and use latex markdown

File: FormalConjectures/ErdosProblems/740.lean [hunk 7]
```diff
@@ -0,0 +1,39 @@
...
+/-- A graph avoids odd cycles of length ≤ r if it contains no odd cycles of length at most r -/
+def avoidsOddCyclesOfLength (G : SimpleGraph V) (r : ℕ) : Prop :=
+  ∀ (n : ℕ) (v : V) (c : G.Walk v v), c.length = n → n ≤ r → Odd n → ¬c.IsCycle
+
+@[category research open, AMS 5]
+theorem erdos_740 :
+    (∀ (r : ℕ) (G : SimpleGraph V),
+      G.chromaticNumber = ⊤ →
+      ∃ (H : G.Subgraph), H.coe.chromaticNumber = ⊤ ∧ avoidsOddCyclesOfLength H.coe r) ↔
+    answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/740.lean]: please use `answer(sorry) ↔ ...` instead of `... ↔ answer(sorry)`

**Comment by mo271** [comment]
Let me know if you need help with the CLA, @Robertboy18 : its seems like the PR opener has signed it, just some email is not right. Those can be altered by amending the commit

**Comment by Robertboy18** [comment]
Thanks for the feedback @mo271!

- I updated the problem to move the problem statement docstring onto `erdos_740` and rewrote it using LaTeX markdown.
- Reordered the statement to `answer(sorry) ↔ ...` as suggested.
- Lastly also updated the CLA as I was using previously my amazon email, but now used my personal one: )!

Let me know if you’d like any further help! Thanks once again.

**Comment by Smetalo** [comment]
Does this resolve #923?

**Comment by Robertboy18** [comment]
Yes!

File: FormalConjectures/ErdosProblems/740.lean [hunk 8]
```diff
@@ -0,0 +1,45 @@
...
+*Reference:* [erdosproblems.com/740](https://erdosproblems.com/740)
+-/
+
+namespace Erdos740
+
+variable {V : Type*}
+
+/-- A graph avoids odd cycles of length ≤ r if it contains no odd cycles of length at most r -/
+def avoidsOddCyclesOfLength (G : SimpleGraph V) (r : ℕ) : Prop :=
+  ∀ (n : ℕ) (v : V) (c : G.Walk v v), c.length = n → n ≤ r → Odd n → ¬c.IsCycle
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/740.lean]:
```suggestion
/-- A graph avoids odd cycles of length $≤ r$ if it contains no odd cycles of length at most $r$ -/
def NoShortOddCycle (G : SimpleGraph V) (r : ℕ) : Prop :=
  ∀ (v : V) (c : G.Walk v v), c.IsCycle → Odd c.length → c.length > r
```

This way we can avoid giving `c.length` a name, I suppose.

Also I think this should be capitalized by the naming convention (and I propose to change it to a slighlty different name, but `AvoidsOddCyclesOfLength` is also fine with me

File: FormalConjectures/ErdosProblems/740.lean [hunk 9]
```diff
@@ -0,0 +1,45 @@
...
+/--
+Does every graph $G$ with $\chi(G) = \infty$ contain, for every $r \in \mathbb{N}$, a subgraph
+$H \subseteq G$ such that $\chi(H) = \infty$ and $H$ contains no odd cycle of length $\le r$?
+-/
+@[category research open, AMS 5]
+theorem erdos_740 :
+    answer(sorry) ↔
+      ∀ (r : ℕ) (G : SimpleGraph V),
+        G.chromaticNumber = ⊤ →
+          ∃ (H : G.Subgraph), H.coe.chromaticNumber = ⊤ ∧ avoidsOddCyclesOfLength H.coe r := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/740.lean]: I think we should quantify here over `V` as well: 
Let's just remove the `variable {V : Type*}` and move that into the definition and `erdos_740` separately.
Otherwise the interaction with the `answer(sorry)` doesn't seem correct.

**Review by mo271 — COMMENTED** [review]
Thanks!

Please also add a `-- TODO` for the addtional statements on Erdősproblems...

File: FormalConjectures/ErdosProblems/740.lean [hunk 10]
```diff
@@ -0,0 +1,45 @@
...
+Does every graph $G$ with $\chi(G) = \infty$ contain, for every $r \in \mathbb{N}$, a subgraph
+$H \subseteq G$ such that $\chi(H) = \infty$ and $H$ contains no odd cycle of length $\le r$?
+-/
+@[category research open, AMS 5]
+theorem erdos_740 :
+    answer(sorry) ↔
+      ∀ (V : Type*) (r : ℕ) (G : SimpleGraph V),
+        G.chromaticNumber = ⊤ →
+          ∃ (H : G.Subgraph), H.coe.chromaticNumber = ⊤ ∧ NoShortOddCycle H.coe r := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/740.lean:46]:
```suggestion
/--
Let $\mathfrak{m}$ be an infinite cardinal and $G$ be a graph with chromatic number $\mathfrak{m}$.
Let $r\geq 1$. Must $G$ contain a subgraph of chromatic number $\mathfrak{m}$ which does not contain
any odd cycle of length $\leq r$?
-/
@[category research open, AMS 5]
theorem erdos_740 :
    answer(sorry) ↔
      ∀ (V : Type*) (G : SimpleGraph V),
        ℵ₀ ≤ G.chromaticCardinal →
          ∀ (r : ℕ),
            ∃ (H : G.Subgraph), H.coe.chromaticCardinal = G.chromaticCardinal ∧
              NoShortOddCycle H.coe r := by
  sorry
```

There is some fine distinction here: just asserting that both `G` and `H` are infinite might not be enough if they are of different infinite cardinality. Luckily we already have `chromaticCardinal` in our ForMathlib...

Also: let's keep the docstring just verbatim what is on erdosproblems

Comment (Robertboy18) [reply FormalConjectures/ErdosProblems/740.lean:46]: Yes sure! Thank you will do that

**Comment by Robertboy18** [comment]
Addressed all your comments!

**Comment by Robertboy18** [comment]
@mo271 do let me know if you need anything else!

**Review by Paul-Lez — APPROVED** [review]
Thanks! (and sorry for the slow review process!)
